US09162963B2
Synthesis of [4-(3,4-Dichlorobenzyloxy)phenyl]-oxo-acetic acid methyl ester
[4-(3,4-Dichlorobenzyloxy)phenyl]-hydroxy-acetic acid methyl ester (85.25 g) was dissolved in dry dichloromethane (500 mL). To the resulting solution, activated manganese (IV) oxide (<5 μm, 175 g) was added. The mixture was stirred vigorously for about 12 hours (until TLC showed no presence of unreacted starting material). The reaction mixture (slurry) was diluted with dichloromethane (500 mL) and was passed through a pad of celite. The filtrate was concentrated to yield the title compound. Proton NMR (400 MHz, CDCl3) was recorded. The following chemical shifts (in ppm) were recorded relative to TMS reference of 0.0 ppm, and include the following: 3.97 (s, 3H); 5.11 (s, 2H); 7.03 (m, 2H); 7.26 (m, 1H); 7.47 (d, 1H); 7.54 (d, 1H); 8.02 (m, 2H).

reactant | [4-(3,4-Dichlorobenzyloxy)phenyl]-hydroxy-acetic acid methyl ester | 85.25 g | COC(C(O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)=O | C16H14Cl2O4
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
catalyst | manganese (IV) oxide | 175 g | [O-2].[Mn+4].[O-2]
product | [4-(3,4-Dichlorobenzyloxy)phenyl]-oxo-acetic acid methyl ester | COC(C(=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)=O | C16H12Cl2O4
